US06133253
10b. (S)-1-t-butyloxycarbonyl-2-toluensulfonyloxymethylazetidine
A solution of (2S)-1-t-butyloxycarbonyl-2-azetidinemethanol (22.6 g, 0.121 mol) in 40 mL of pyridine was treated with p-toluenesulfonyl chloride (27.6 g, 0.145 mol). The resulting mixture was stirred at room temperature for 16 hours, diluted with CH2Cl2 and washed sequentially with 1 N aqueous HCl, H2O, saturated aqueous K2CO3, and brine. The organic phase was dried (Na2SO4) and concentrated. Purification by chromatography (silica gel; Hexane/EtOAc, 80:20) afforded 32.8 g of a white solid which was recrystallized from CH2Cl2 /hexane to afford the title compound as thin white needles: mp 59-60° C.; 1H NMR (CDCl3, 300 MHz) δ 1.37 (s, 9H), 2.15-3.28 (m, 2H), 2.44 (s, 3H), 3.74-3.81 (m, 2H), 4.13 (dd, J=3.1, 10.2 Hz, 1H), 4.23-4.34 (m, 2H), 7.35 (d, J=8.1 Hz, 2H), 7.80 (d, J=8.2 Hz, 2H); MS (CI/NH3) m/z: 242 (M+H)+.

reactant | (2S)-1-t-butyloxycarbonyl-2-azetidinemethanol | 0.121 mol, 22.6 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
reactant | p-toluenesulfonyl chloride | 0.145 mol, 27.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-1-t-butyloxycarbonyl-2-toluensulfonyloxymethylazetidine | 32.8 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COS(=O)(=O)C=1C(=CC=CC1)C | C16H23NO5S
